US07074831B2
5-[(E)-2-(2-Fluoro-phenyl)-vinyl]-2-propionylamino-benzoic Acid (Not Included in the Claims)
To a mixture of 5-bromo-2-propionylamino-benzoic acid methyl ester (1.0 g, 3.50 mmol), potassium carbonate (532 mg, 3.85 mmol), tri-n-butyl amine (0.917 mL, 3.85 mmol) and PdCl2(PPh3)2 (35 mg, 0.05 mmol) in DMF (20 mL) was added 2-fluoro-styrene (0.50 mL, 4.2 mmol). The reaction mixture was heated to 150° C. and left at this temperature for 18 hours. after which it was allowed to reach room temperature. Water (10 mL) and 5M NaOH (2 mL) were added and the temperature was once again raised to 150° C. After one hour at this temperature the reaction mixture was allowed to reach room temperature. Water (50 mL) was added and the mixture was filtered by suction through Celite. The filtrate was acidified with 5M HCl, the product collected by filtration and re-crystallised from ethanol (511 mg, 47%).

reactant | 5-bromo-2-propionylamino-benzoic acid methyl ester | 3.50 mmol, 1.0 g | COC(C1=C(C=CC(=C1)Br)NC(CC)=O)=O | C11H12BrNO3
reactant | potassium carbonate | 3.85 mmol, 532 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tri-n-butyl amine | 3.85 mmol, 0.917 mL | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 2-fluoro-styrene | 4.2 mmol, 0.50 mL | FC1=C(C=C)C=CC=C1 | C8H7F
reactant | NaOH | 5M, 2 mL | [OH-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Water | 50 mL | O | H2O
solvent | Water | 10 mL | O | H2O
product | 5-[(E)-2-(2-Fluoro-phenyl)-vinyl]-2-propionylamino-benzoic Acid | FC1=C(C=CC=C1)/C=C/C=1C=CC(=C(C(=O)O)C1)NC(CC)=O | C18H16FNO3
